US04326069
N-(3'-Methylethylaminopropyl)-aspartic acid-4-cyclohexyl ester
43.6 g (0.2 mol+10% excess) of maleic acid-monocyclohexyl ester, 40 ml of triethylamine and 23.2 g (0.2 mol) of 3-(methylethylamino)-propylamine are reacted in the manner described in Example 1 and analogously further processed. The yield is 36.3 g (57.7% of theory) of a crystalline aspartic acid derivative which, after recrystallisation in acetone, melts at 123.5°-127.5° C.

reactant | maleic acid-monocyclohexyl ester | 0.2 mol, 43.6 g | C1(CCCCC1)OC(\C=C/C(=O)O)=O | C10H14O4
reactant | 3-(methylethylamino)-propylamine | 0.2 mol, 23.2 g | CN(CCCN)CC | C6H16N2
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Methylethylaminopropyl)-aspartic acid-4-cyclohexyl ester | C1CCC(CC1)OC([C@@H](NCCC(C)NCC)CC(=O)O)=O | C16H30N2O4
